US05736534
(4-(5-Bromo-3,4-dihydro-2H-quinolin-1-yl)-6,7-dimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 4% yield from 5-bromo-1,2,3,4-tetrahydroquinoline and 4-chloro-6,7-dimethoxy-quinazoline. (film; LC-MS: 399 (MH+)).

reactant | 5-bromo-1,2,3,4-tetrahydroquinoline | BrC1=C2CCCNC2=CC=C1 | C9H10BrN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
product | 4-(5-Bromo-3,4-dihydro-2H-quinolin-1-yl)-6,7-dimethoxy-quinazoline | 4% yield | BrC1=C2CCCN(C2=CC=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C19H18BrN3O2
